US04812461
N-[4-{4-(4-Fluorobenzoyl)piperidinyl}-3-hydroxybutyl]cyclohexane-1,2-dicarboximide (Compound No. 4)
A mixture of N-(3,4-epoxybutyl)cyclohexane-1,2-dicarboximide (3 g), 4-(4-fluorobenzoyl)piperidine (3.23 g) and n-butanol (62 ml) was refluxed for 6 hours, followed by evaporation of n-butanol under reduced pressure. The residue was purified by silica gel column chromatography to give the objective compound (2.3 g). Yield, 38.2%. M.P., 121°-122° C.

reactant | N-(3,4-epoxybutyl)cyclohexane-1,2-dicarboximide | 3 g | O1C(CCN2C(=O)C3C(CCCC3)C2=O)C1 | C12H17NO3
reactant | 4-(4-fluorobenzoyl)piperidine | 3.23 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
solvent | n-butanol | 62 ml | C(CCC)O | C4H10O
product | N-[4-{4-(4-Fluorobenzoyl)piperidinyl}-3-hydroxybutyl]cyclohexane-1,2-dicarboximide | 2.3 g | FC1=CC=C(C(=O)C2CCN(CC2)CC(CCN2C(=O)C3C(CCCC3)C2=O)O)C=C1 | C24H31FN2O4
